US06204222B1
N-[3-(2-Bromo-2-methoxycarbonylethenyl)-4-chlorophenyl]-2-cyanocyclohexenecarboxamide (compound Ib.02)
2.6 g of pyridine and then, at from 0 to 5° C., 4.6 g of trifluoroacetic anhydride in 10 ml of dichloromethane were added dropwise to a solution of 5 g of N-(3-(2-bromo-2-methoxycarbonylethenyl)-4-chlorophenyl]-cyclohexene-1,2-dicarboxamide in 80 ml of dichloromethane. Stirring was carried out for 1 hour at 5° C. and 2 hours at 25° C., after which 100 ml of water were added and stirring was carried out for a further 30 minutes. The organic phase was then separated off and dried. After removal of the solvent, the crude product was dissolved in 50 ml of diethyl ether. The product which had crystallized out was separated off from the cooled solution, the melting point of said product being 123-125° C.

reactant | pyridine | 2.6 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 4.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-(3-(2-bromo-2-methoxycarbonylethenyl)-4-chlorophenyl]-cyclohexene-1,2-dicarboxamide | 5 g | BrC(=CC=1C=C(C=CC1Cl)NC(=O)C1=C(CCCC1)C(=O)N)C(=O)OC | C18H18BrClN2O4
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-[3-(2-Bromo-2-methoxycarbonylethenyl)-4-chlorophenyl]-2-cyanocyclohexenecarboxamide | BrC(=CC=1C=C(C=CC1Cl)NC(=O)C1=C(CCCC1)C#N)C(=O)OC | C18H16BrClN2O3
